US08791132B2
To a solution of 2-methyl-7-(trifluoromethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.0 g, 3.937 mmol) in DMF (5 mL) was added NaH (472 mg, 11.81 mmol) in portions at 0° C. After stirring the reaction mixture at 0° C. for 15 min, a solution of 4-(oxiran-2-yl)pyridine (714 mg, 5.90 mmol) in DMF (1 mL) was dropwise added into the reaction mixture at the same temperature and stirring was continued at RT overnight. The progress of reaction was monitored by TLC, LCMS and NMR. After consumption of starting material, ice water was added into the reaction mixture and the product was extracted with EtOAc (3×50 mL). The organic layer was washed with water (5×50 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel chromatography to yield 2-(2-methyl-7-(trifluoromethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(pyridin-4-yl)ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.54 (d, 2H), 7.5 (s, 1H), 7.37 (d, 1H), 7.3 (d, 1H), 7.18 (d, 2H), 4.78 (m, 1H), 4.17 (m, 2H), 3.5 (m, 2H), 2.8 (m, 1H), 2.7 (m, 2H), 2.63 (m, 1H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers 65a and 65b.

reactant | 2-methyl-7-(trifluoromethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 3.937 mmol, 1.0 g | CN1CC2=C(NC=3C=C(C=CC23)C(F)(F)F)CC1 | C13H13F3N2
reactant | NaH | 11.81 mmol, 472 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 5.90 mmol, 714 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2-methyl-7-(trifluoromethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(pyridin-4-yl)ethanol | CN1CC2=C(N(C=3C=C(C=CC23)C(F)(F)F)CC(O)C2=CC=NC=C2)CC1 | C20H20F3N3O
